US06825170B2
(2E)-3-[4-(1H-Pyrazol-1-yl)phenyl]-2-propenal
A mixture of 4-(1H-pyrazol-1-yl)-benzaldehyde (prepared as described in J. Med Chem. 1998, 41, 2390) (1.65 g, 9.58 mmol), (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide (6.45 g, 15.02 mmol), and TDA-1 (3.20 mL, 10.00 mmol) in dichloromethane (50 mL) and sat. aq. K2CO3 (50 mL) was heated to reflux for 20 h. The layers were separated and the aqueous layer was extracted with dichloromethane (2×25 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL), dried (MgSO4), and concentrated. THF (25 mL) and 10% HCl (25 mL) were added and the mixture was stirred for 1 h at rt. The reaction mixture was cooled to 0° C., made basic with 10% NaOH, and extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL), dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 3:1 hexane/ethyl acetate) provided 1.69 g (89%) of the title compound as a yellow solid. MS 199 (M+H)+.

reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | 9.58 mmol, 1.65 g | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | (1,3-dioxolan-2-ylmethyl)triphenylphosphonium bromide | 15.02 mmol, 6.45 g | [Br-].O1C(OCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | TDA-1 | 10.00 mmol, 3.20 mL | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | K2CO3 | 50 mL | C(=O)([O-])[O-].[K+].[K+]
product | (2E)-3-[4-(1H-Pyrazol-1-yl)phenyl]-2-propenal | 1.69 g, 89% | N1(N=CC=C1)C1=CC=C(C=C1)/C=C/C=O | C12H10N2O
